Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4]#[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:5],3.1596089698900003
[C:6]([H:7])[C:8]([H:9])=[C:10][H:11].[H:1][C:2][O:3][C:4][H:5]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10][H:11],-7.50934604345
[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1][C:2][C:3].[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],3.92276719183
[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:9]([H:10])([H:11])[O:12][H:13].[H:8]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.99232309426
[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9][O:10][H:11].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9][O:10][H:11],-8.496500638639999
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:8](\[H:9])[C:10]([H:11])[H:12].[H:7],3.3266140128900004
[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.02621258025
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10].[O:11][H:12],5.27838310651
[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-1.8671248698
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])[O:11][H:12]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])=[C:8]([O:9][H:10])[O:11][H:12],-1.30824976975
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9],4.43991833272
[H:1][C:2]([C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1]/[C:2]([C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9])=[C:10](/[H:11])[C:13]([H:14])([H:15])[H:16],1.98055662694
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4][O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:5],4.75570540057
[C:1][C:2]#[C:3][C:4]([H:5])=[C:6]([H:7])[H:8].[H:9]>>[C:1]#[C:2][C:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9],-3.67547430192
[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])=[C:12][H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.88715789667
[C:7]([H:8])([H:9])[O:10][C:11][H:12].[H:1][C:2][O:3][C:4]([H:5])[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12],-3.77031466239
[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])([O:8][H:9])[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][C:2][C:3]([H:4])=[C:5]([O:6][H:7])[O:8][H:9],4.46210370579
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:2]#[C:3][O:4][C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1],4.67863502377
[H:1][C:2]([H:3])([H:4])[C:5]1[O:6][C:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[C:5]([O:6][C:7]=[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13],-0.269939554921
[H:1][C:2][O:3][C:4]([H:5])[H:6]>>[C:4]([H:5])[H:6].[H:1][C:2]=[O:3],2.08319098599
[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-10.70062549
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:9][O:10][H:11].[H:8]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[O:10][H:11],-2.37706635168
[C:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[O:7][O:8][H:9]>>[C:1]#[C:5][H:6].[C:2]([H:3])#[C:4][O:7][O:8][H:9],1.2982176221
[C:6]([H:7])([H:8])=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],1.11738081844
[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-5.2991488784500005
[C:3]([H:4])=[C:5]([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12],-6.478851602459999
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:3],2.35160859316
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])[C:5]#[C:6][H:7],4.14659992962
[C:3](#[C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:1][C:2]>>[H:1][C:2][C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-2.92353102753
